US08110570B2
A mixture of 695 mg (1.76 mmol) of benzyl 2-benzyloxy-5-bromobenzoate, 175 mg (0.41 mmol) of potassium hexacyanoferrate(II) trihydrate, 41 mg (0.8 mmol) of palladium(II) acetate, and 189 mg (1.75 mmol) of sodium carbonate in 3 mL of dimethylacetamide is heated at 120° C. for 24 hrs. The reaction mixture is diluted with water and extracted several times with ethyl acetate. Combined extracts are washed with brine and dried over Na2SO4. After solvent removal by rotoevaporation, the crude product is purified by preparative TLC to give 436 mg (1.27 mmol, 72% yield) of benzyl 2-benzyloxy-5-cyanobenzoate.

reactant | benzyl 2-benzyloxy-5-bromobenzoate | 1.76 mmol, 695 mg | C(C1=CC=CC=C1)OC1=C(C(=O)OCC2=CC=CC=C2)C=C(C=C1)Br | C21H17BrO3
reactant | sodium carbonate | 1.75 mmol, 189 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | dimethylacetamide | 3 mL | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
catalyst | potassium hexacyanoferrate(II) trihydrate | 0.41 mmol, 175 mg | [C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.O.O.O.[K+].[K+].[K+].[K+].[Fe+2]
catalyst | palladium(II) acetate | 0.8 mmol, 41 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | benzyl 2-benzyloxy-5-cyanobenzoate | 1.27 mmol, 436 mg, 72% yield | C(C1=CC=CC=C1)OC1=C(C(=O)OCC2=CC=CC=C2)C=C(C=C1)C#N | C22H17NO3
